US08754079B2
266.2 4-[2-(trans-4-hydroxy-cyclohexyloxy)-pyridine-3-ylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid
A reaction mixture of 1.541 g 4-[2-(trans-4-hydroxy-cyclohexyloxy)-pyridine-3-ylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methylester, 2.00 g lithium hydroxide, 13.3 ml THF, 13.3 ml MeOH and 13.3 ml water was stirred at rt overnight. Then the mixture was acidified by addition of hydrochloric acid and extracted with DCM. The organic phase was dried, filtered and the filtrate was concentrated.

reactant | 4-[2-(trans-4-hydroxy-cyclohexyloxy)-pyridine-3-ylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methylester | 1.541 g | COC(=O)C1=C(C2=C(N=CN=C2NC=2C(=NC=CC2)O[C@@H]2CC[C@H](CC2)O)S1)C | C20H22N4O4S
reactant | lithium hydroxide | 2.00 g | [OH-].[Li+]
reactant | THF | 13.3 ml | C1CCOC1 | C4H8O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 13.3 ml | O | H2O
solvent | MeOH | 13.3 ml | CO | CH4O
product | 4-[2-(trans-4-hydroxy-cyclohexyloxy)-pyridine-3-ylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | O[C@@H]1CC[C@H](CC1)OC1=NC=CC=C1NC=1C2=C(N=CN1)SC(=C2C)C(=O)O | C19H20N4O4S
